US07307084B2
AP. 7-Hydroxy-3-methoxymethyl-2-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide
A solution of 1.8 g (5.0 mmol) 7-benzyloxy-3-methoxymethyl-2-methyl-3H-benzimidazole-5-carboxylic acid dimethylamide and 270 μl acetic acid in 150 ml ethanol was hydrogenated over 240 mg 10% Pd/C in autoclave (5 bar H2) at 50° C. for 18 h. The catalyst was filtered off and the filtrate was concentrated in vacuo and crystallized from ethyl acetate-petroleum ether to afford 0.8 g (62%) of the title compound as a white solid. m.p. 173°-183° C.

reactant | 7-benzyloxy-3-methoxymethyl-2-methyl-3H-benzimidazole-5-carboxylic acid dimethylamide | 5.0 mmol, 1.8 g | CN(C(=O)C1=CC2=C(N=C(N2COC)C)C(=C1)OCC1=CC=CC=C1)C | C20H23N3O3
reactant | acetic acid | 270 μl | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | 240 mg | [Pd] | Pd
product | 7-Hydroxy-3-methoxymethyl-2-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 0.8 g, 62% | CN(C(=O)C1=CC2=C(N=C(N2COC)C)C(=C1)O)C | C13H17N3O3
